US07544693B2
Ethyl glycolate (7.26 g, 59.7 mmol) was added slowly into a suspension of sodium hydride (2.95 g of 60% dispersion in mineral oil, 73.8 mmol) in 85 mL of 1,2-dimethoxyethane (DME) at 0° C., and the mixture was stirred for another 30 min. A solution of ethyl 4-chloronicotinate (6.20 g, 33.4 mmol) in 20 mL of DME was added slowly into the reaction mixture at room temperature. The mixture was heated to 70° C. and maintained at that temperature overnight. The solvent was evaporated and the residue was dissolved in 100 mL of water, and washed with hexane 3 times. The pH of the water solution was adjusted to about 5 using acetic acid to pH 5, and a yellow precipitate was formed. The yellow precipitate was filtered, washed with a small amount of water (20 mL×3), and dried overnight in vacuo to give ethyl 3-hydroxyfuro[3,2-c]pyridine-2-carboxylate free base as a yellow solid (5.79 g) which was used for the next step without further purification.

reactant | Ethyl glycolate | 59.7 mmol, 7.26 g | C(CO)(=O)OCC | C4H8O3
reactant | sodium hydride | 73.8 mmol, 2.95 g | [H-].[Na+]
reactant | ethyl 4-chloronicotinate | 33.4 mmol, 6.20 g | ClC1=CC=NC=C1C(=O)OCC | C8H8ClNO2
solvent | 1,2-dimethoxyethane | 85 mL | COCCOC | C4H10O2
solvent | DME | 20 mL | COCCOC | C4H10O2
product | ethyl 3-hydroxyfuro[3,2-c]pyridine-2-carboxylate | 5.79 g | OC1=C(OC2=C1C=NC=C2)C(=O)OCC | C10H9NO4
